US04992503
Preparation of N-methoxyethoxymethyl-N-(2-methoxy-5-pyridyl)-cyclopropane carboxamide
Sodium hydride (0.33 g, 0.014 mol) and N-(2-methoxy-5-pyridyl)-cyclopropane carboxamide (92.5 g, 0.014 mol) were added to dry tetrahydrofuran (THF). This mixture was stirred under N2 for one hour when methoxyethyl chloromethyl ether (1.6 g, 0.014 mol) was added dropwise to the stirred mixture. The reaction was stirred overnight and diluted with ether and washed with water. The organic phase was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo nto give 2.4 g of a yellow oil of the title compound. The structure was confirmed by mass spectroscopy (MS), IR and NMR analysis.

reactant | Sodium hydride | 0.014 mol, 0.33 g | [H-].[Na+]
reactant | N-(2-methoxy-5-pyridyl)-cyclopropane carboxamide | 0.014 mol, 92.5 g | COC1=NC=C(C=C1)NC(=O)C1CC1 | C10H12N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methoxyethyl chloromethyl ether | 0.014 mol, 1.6 g | ClCOCCOC | C4H9ClO2
solvent | ether | CCOCC | C4H10O
product | N-methoxyethoxymethyl-N-(2-methoxy-5-pyridyl)-cyclopropane carboxamide | 2.4 g | COCCOCN(C(=O)C1CC1)C=1C=CC(=NC1)OC | C14H20N2O4
